US07132539B2
Preparation of 2-{4-[2-Acetylamino-3-(4-fluorophenyl)propionyl]-3-cyclopropyl-methyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl propionamide (24):
To a solution of 2-[4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide, 18, (100 mg, 0.155 mmol) and triethylamine (20 mg, 0.2 mmole) in CH2Cl2 (5 mL) at 0° C. is added dropwise acetyl chloride (13.4 mg, 0.17 mmole). The reaction is allowed to warm to room temperature and stirred 1 hour. The reaction is diluted with CH2Cl2 (10 mL) and extracted with water then brine, dried and concentrated in vacuo to afford a residue which is purified over silica gel to afford the desired product. 13C NMR (CDCl3, 75 MHz), 170.12, 169.90, 169.82, 169.49, 169.35, 167.70, 134.07, 133.67, 132.57, 131.64, 128.65, 127.83, 127.80, 127.70, 127.51, 127.23, 127.15, 126.64, 126.15, 115.87, 115.79, 115.60, 115.51, 58.65, 57.40, 56.61, 56.43, 50.61, 50.09, 42.76, 41.96, 41.55, 39.84, 38.39, 37.77, 36.89, 34.65, 34.09, 26.59, 23.26, 23.07, 7.20, 7.12, 4.83, 4.69, 4.45; MS, (ES-MS) m/z 573 (M+1).

reactant | 2-[4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide | NC(C(=O)N1C(C(N(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O)CC1CC1)CC1=CC=C(C=C1)F | C31H35FN4O3
reactant | triethylamine | 0.2 mmole, 20 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.17 mmole, 13.4 mg | C(C)(=O)Cl | C2H3ClO
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[2-Acetylamino-3-(4-fluorophenyl)propionyl]-3-cyclopropyl-methyl-2-oxo-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl propionamide | C(C)(=O)NC(C(=O)N1C(C(N(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O)(C1CC1)C)CC1=CC=C(C=C1)F | C33H37FN4O4
